US03948854
33.6 g of 2,5-dihydroxybenzoic acid hydrazide are dissolved in 150 ml of dimethylacetamide and 66.5 g of chloroformic acid octadecyl ester in 150 ml of dimethylacetamide, and 21 g of triethylamine, are added simultaneously over the course of 30 minutes. Thereafter the reaction mixture is warmed to 40° C for 3 hours whilst stirring, cooled and poured into 2 litres of water. The N-(2,5-dihydroxybenzoyl)-hydrazinecarboxylic acid octadecyl ester obtained (Stabiliser No. 8) forms a pulverulent precipitate which is isolated, washed with water, dried at 80° C and recrystallised from isopropanol. Melting point 163° C.

reactant | 2,5-dihydroxybenzoic acid hydrazide | 33.6 g | OC1=C(C(=O)NN)C=C(C=C1)O | C7H8N2O3
reactant | chloroformic acid octadecyl ester | 66.5 g | C(CCCCCCCCCCCCCCCCC)OC(=O)Cl | C19H37ClO2
reactant | triethylamine | 21 g | C(C)N(CC)CC | C6H15N
reactant | water | 2 litres | O | H2O
solvent | dimethylacetamide | 150 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 150 ml | CC(=O)N(C)C | C4H9NO
product | N-(2,5-dihydroxybenzoyl)-hydrazinecarboxylic acid octadecyl ester | C(CCCCCCCCCCCCCCCCC)OC(=O)N(N)C(C1=C(C=CC(=C1)O)O)=O | C26H44N2O5
